US08008302B2
Step d) Formation of 1-(5-phenyl-1,2,4-oxadiazol-3-yl)piperazine dihydrochloride
A solution of tert-butyl 4-(5-phenyl-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate (5 g) in a 2M solution of HCl in ether (100 mL) was stirred at RT for 6 hours. The solvent was removed under vacuum to afford 4.3 g (93%) of the title compound as a solid. TLC—Chloroform/methanol (8/2): Rf=0.2. HPLC purity: 97%.

reactant | tert-butyl 4-(5-phenyl-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate | 5 g | C1(=CC=CC=C1)C1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H22N4O3
reactant | HCl | Cl | ClH
solvent | ether | 100 mL | CCOCC | C4H10O
product | 1-(5-phenyl-1,2,4-oxadiazol-3-yl)piperazine dihydrochloride | 4.3 g, 93% | Cl.Cl.C1(=CC=CC=C1)C1=NC(=NO1)N1CCNCC1 | InChI=1S/C12H14N4O.2ClH/c1-2-4-10(5-3-1)11-14-12(15-17-11)16-8-6-13-7-9-16;;/h1-5,13H,6-9H2;2*1H
